US06063360
2,2,6,6-Tetra(t-butoxyethyl)4-iodo-benzo[1,2-d:4,5-d']bis(1,3)dithiole
A dry flask under argon was charged with 2,2,6,6-tetra(t-butoxyethyl)benzo[1,2-d:4,5-d']bis(1,3)dithiole (60.0 g, 95.08 mmol) and dry tetrahydrofuran (2000 ml). The mixture was cooled to -20° C. and n-Butyl lithium (76 ml of a 2.5M solution in hexane, 0.19 mol) was added over 3 minutes. The mixture was stirred for 20 minutes at -20° C. and then a solution of iodine (120 g, 0.475 mol) in tetrahydrofuran (500 ml) was added. The reaction mixture was poured into an aqueous sodium bisulphite solution and extracted with diethyl ether. The organic phase was washed once with an aqueous solution of sodium bisulphite and once with brine, dried (MgSO4) and evaporated. The product was purified by chromatography on silica gel using a mixture of CH2Cl2 and ethyl acetate as the eluent. Yield: 36.7 g (51 i).

reactant | 2,2,6,6-tetra(t-butoxyethyl)benzo[1,2-d:4,5-d']bis(1,3)dithiole | 95.08 mmol, 60.0 g | C(C)(C)(C)OCCC1(SC2=C(S1)C=C1C(SC(S1)(CCOC(C)(C)C)CCOC(C)(C)C)=C2)CCOC(C)(C)C | C32H54O4S4
reactant | n-Butyl lithium | C(CCC)[Li]
reactant | iodine | 0.475 mol, 120 g | II | I2
reactant | sodium bisulphite | S([O-])(O)=O.[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2000 ml | O1CCCC1 | C4H8O
product | 2,2,6,6-Tetra(t-butoxyethyl)4-iodo-benzo[1,2-d:4,5-d']bis(1,3)dithiole | C(C)(C)(C)OCCC1(SC2=C(S1)C(=C1C(SC(S1)(CCOC(C)(C)C)CCOC(C)(C)C)=C2)I)CCOC(C)(C)C | C32H53IO4S4
